US04701464
To a mixture of 40.4 g (0.200 mole) of 3,5-dichloro-2,4,6-trifluoropyridine in 50 ml of dimethylformamide that had been cooled to 0° C. was added slowly 10 g (0.20 mole) of sodium cyanide. After addition was complete the reaction was stirred at 0° C. for two hours and at room temperature of two hours. The dimethylformamide was distilled from the reaction mixture under reduced pressure, and the black residue was mixed with 200 ml of water. This mixture was extracted with ethyl acetate. The extracts were combined, and the ethyl acetate was evaporated, leaving a black residue weighing approximately 15 g. This residue was distilled, yielding approximately 10 g of 4-cyano-3,5-dichloro-2,6-difluoropyridine as a white solid.

reactant | 3,5-dichloro-2,4,6-trifluoropyridine | 0.200 mole, 40.4 g | ClC=1C(=NC(=C(C1F)Cl)F)F | C5Cl2F3N
reactant | sodium cyanide | 0.20 mole, 10 g | [C-]#N.[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-cyano-3,5-dichloro-2,6-difluoropyridine | approximately 10 g | C(#N)C1=C(C(=NC(=C1Cl)F)F)Cl | C6Cl2F2N2
